US05089391
Preparation Of 3-O-Carboxymethylmorphine Hydrochloride
Morphine sulfate (1.67 g, 5×10-3 mol) was dissolved with potassium carbonate (2.07 g, 1.5×10-2 mol) in 80 ml ethanol. The solution was heated to reflux while stirring and a solution containing bromoacetic acid (0.7 g, 5×10-3 mol) was added in 2 ml ethanol. This was refluxed for two hours, then the flask was cooled in an ice water bath. The pH was adjusted to 3 with 12N hydrochloric acid and precipitates were filtered. Solvents were evaporated under vacuum and 10 ml ethanol was added to the residue. Precipitates were filtered and solvents evaporated under vacuum. The residue was recrystallized from water/acetone (10:90). Approximately 300 mg of product was recovered.

reactant | Morphine sulfate | 5×10-3 mol, 1.67 g | S(=O)(=O)(O)O.C1=CC(O)=C2C=3[C@@]45[C@@H](O2)[C@@H](O)C=C[C@H]4[C@@H](CC13)N(C)CC5
reactant | potassium carbonate | 1.5×10-2 mol, 2.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetic acid | 5×10-3 mol, 0.7 g | BrCC(=O)O | C2H3BrO2
reactant | hydrochloric acid | 12N | Cl | ClH
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 3-O-Carboxymethylmorphine Hydrochloride | Cl.C(=O)(O)COC=1C=CC=2C[C@@H]3[C@@H]4C=C[C@@H]([C@H]5[C@@]4(C2C1O5)CCN3C)O | InChI=1S/C19H21NO5.ClH/c1-20-7-6-19-11-3-4-13(21)18(19)25-17-14(24-9-15(22)23)5-2-10(16(17)19)8-12(11)20;/h2-5,11-13,18,21H,6-9H2,1H3,(H,22,23);1H/t11-,12+,13-,18-,19-;/m0./s1
